US04032322
While maintaining the temperature below 50°, 86.1 g of 30% hydrogen peroxide was added dropwise to a solution of 128.3 g of 3-amino-2-cyano-4-methyl- 2-pentenethioamide in 600 ml of absolute ethanol. The mixture was stirred at room temperature for 19 hours, filtered and concentrated to about half volume. Water was added to cloud point and the solid allowed to separate. The solid was collected and dried to give 123.0 g of 5-amino-4-cyano-3-isopropylisothiazole, mp 133°-135°.

reactant | hydrogen peroxide | 86.1 g | OO | H2O2
reactant | 3-amino-2-cyano-4-methyl- 2-pentenethioamide | 128.3 g | NC(=C(C(N)=S)C#N)C(C)C | C7H11N3S
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-isopropylisothiazole | 123.0 g | NC1=C(C(=NS1)C(C)C)C#N | C7H9N3S
